US06869949B2
G. 2-Methyl-6,7-dihydro-5H-imidazo[1,2-a]pyridine-8-one
60 g (251.8 mmol) of 8-benzyloxy-2-methylimidazo[1,2-a]pyridine (Kaminski et al, J. Med. Chem. 1985, 28, 876-892) are hydrogenated on Pd-carbon in 400 ml of methanol at a hydrogen pressure of 55 bar and 70° C. After completion of the hydrogenation, the catalyst is filtered off and the filtrate is concentrated. The residue (38 g) is taken up in dichloromethane and the solution is treated in portions at room temperature with manganese dioxide (109.5 g). The reaction mixture is stirred at room temperature for 22 h and then filtered through silica gel. The filtrate is concentrated to a residue and the crystallizate is dried in vacuo at 60° C. 25.13 g (66% of theory) of the title compound are obtained.

reactant | 8-benzyloxy-2-methylimidazo[1,2-a]pyridine | 251.8 mmol, 60 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=C(N2)C | C15H14N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
product | 2-Methyl-6,7-dihydro-5H-imidazo[1,2-a]pyridine-8-one | CC=1N=C2N(CCCC2=O)C1 | C8H10N2O
